US06642229B2
A mixture of 2-amino-4-(trifluoromethyl)pyrimidine (prepared according to Zanatta et al. in J. Heterocyclic Chem., 1997, 34(2), 509-513) (500 mg, 3.1 mmol) and bromoacetaldehyde diethyl acetal (1.38 ml, 9.2 mmol) in ethanol (10 ml) was treated with hydrobromic acid (0.5 ml of a 48% aqueous solution) and then heated at 70° C. for 12 h. The reaction was cooled to ambient temperature then pre-adsorbed onto silica. Purification by chromatography on silica eluting with dichloromethane (containing 1% conc. ammonia) on a gradient of methanol (1-5%) afforded 7-trifluoromethylimidazo[1,2-a]pyrimidine (500 mg, 87%) as a cream-coloured solid: δH (400 MHz, CDCl3) 7.22 (1H, d, J 7), 7.74 (1H, d, J 1), 8.03 (1H, d, J 1), 8.67 (1H, d, J 7).

reactant | 2-amino-4-(trifluoromethyl)pyrimidine | 3.1 mmol, 500 mg | NC1=NC=CC(=N1)C(F)(F)F | C5H4F3N3
reactant | bromoacetaldehyde diethyl acetal | 9.2 mmol, 1.38 ml | C(C)OC(CBr)OCC | C6H13BrO2
reactant | hydrobromic acid | Br | BrH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 7-trifluoromethylimidazo[1,2-a]pyrimidine | 500 mg, 87% | FC(C1=NC=2N(C=C1)C=CN2)(F)F | C7H4F3N3
